US07812043B2
1-(4-Hydroxy-butyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide
The title compound was prepared using 1H-indole-3-carboxylic acid thiazol-2-ylamide and 4-bromobutyl acetate as R5X.

reactant | 1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CNC2=CC=CC=C12 | C12H9N3OS
reactant | 4-bromobutyl acetate | C(C)(=O)OCCCCBr | C6H11BrO2
product | 1-(4-Hydroxy-butyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CCCCO | C16H17N3O2S
